US06420424B1
(S)-Ethyl-2-benzoylamino-3-(4-aminophenyl)propionate
(S)-Ethyl-2-benzoylamino-3-(4-nitrophenyl)propionate (0.542 g, 1.58 mmol) was dissolved with warming in EtOH (20 mL) and to the cooled solution was added 10% Pd/C (0.108 g, 20% w/w). The mixture was stirred overnight at room temperature under a balloon of H2. The mixture was filtered through a pad of celite and the filtrate was concentrated to an off-white solid and flash chromatographed (silica gel, 1:1 hexanes:EtOAc) to afford the title compound as a white solid (0.323 g, 66%).

reactant | (S)-Ethyl-2-benzoylamino-3-(4-nitrophenyl)propionate | 1.58 mmol, 0.542 g | C(C)OC([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC(C1=CC=CC=C1)=O)=O | C18H18N2O5
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 0.108 g | [Pd] | Pd
product | (S)-Ethyl-2-benzoylamino-3-(4-aminophenyl)propionate | 0.323 g, 66% | C(C)OC([C@H](CC1=CC=C(C=C1)N)NC(C1=CC=CC=C1)=O)=O | C18H20N2O3
